US04022769
The 1β,2β-methylene-5-androstene-3β,17β-diol prepared in this manner is dissolved in acetone and Jones Reagent added until a persistent yellow-orange color appears. After stirring at room temperature for 10 minutes the mixture is poured onto ice-water and the precipitate is dissolved in a solution of sodium methoxide in methanol and stirred about 30 minutes at room temperature. The methanol is removed and the residue triturated with water. The filtered solid is crystallized from acetone to yield 1β,2β-methylene-4-androstene-3,17-dione.

reactant | 1β,2β-methylene-5-androstene-3β,17β-diol | C1[C@@H]2[C@H]1[C@@H](CC1=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]21C)O)O | C20H30O2
reactant | Jones Reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | CC(=O)C | C3H6O
solvent | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1β,2β-methylene-4-androstene-3,17-dione | C1[C@@H]2[C@H]1C(C=C1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=O | C20H26O2
